US07659300B2
Step A. (±)-5-Bromo-1,3-dihydrospiro[indene-2,3′-indol]-2′(1′H)-one
To a solution of oxindole (363 mg, 2.73 mmol) at −78° C. in THF (15 mL) was added butyllithium (2.5 M in hexanes, 2.29 mL, 5.73 mmol) drop wise, followed by the drop wise addition of tetranethylethylenediamine (0.905 mL, 6.00 mmol). The solution was stirred for 1 h at −78° C., then a solution of 4-bromo-1,2-bis(bromomethyl)benzene [Anderson et al., J. Org. Chem. 1979, 44(9), 1519-1533] (1.87 g, 5.45 mmol) in THF (5 mL) was added drop wise. The reaction solution was stirred at −10 to −20° C. for 2 h and at ambient temperature for 16 h. The reaction mixture was partitioned between saturated NH4Cl (50 mL) and EtOAc (50 mL). The aqueous phase was further extracted with EtOAc (2×50 mL), and the combined organic layers were dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc—100:0 to 50:50, to give the title compound. MS: m/z=315 (M+1).

reactant | oxindole | 2.73 mmol, 363 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | butyllithium | 5.73 mmol, 2.5 M, 2.29 mL | C(CCC)[Li]
reactant | 4-bromo-1,2-bis(bromomethyl)benzene | 5.45 mmol, 1.87 g | BrC1=CC(=C(C=C1)CBr)CBr | C8H7Br3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (±)-5-Bromo-1,3-dihydrospiro[indene-2,3′-indol]-2′(1′H)-one | BrC=1C=C2CC3(C(NC4=CC=CC=C34)=O)CC2=CC1 | C16H12BrNO
